US06831186B2
N-Bromosuccinimide (85.3 g, 0.48 mol) was added in portions to a nearly homogeneous solution of triphenylphosphine (128.2 g, 0.49 mol) and 5-trimethylsilylpent-2-en-4-yn-1-ol (72.5 g, 0.47 mol) in dichloromethane (600 mL) under nitrogen and cooled in a dry ice/2-propanol bath to an initial temperature of below −20° C. The internal temperature of the reaction mixture was maintained at −10° C. to 0° C. throughout the addition by adjusting the rate of addition. The bath was allowed to warm to ambient temperature. After 2 hours, the reaction was complete. The reaction mixture was concentrated under vacuum to a thick paste and the residue was triturated with hexane (250 mL). The suspension was filtered and the solids and silica gel were rinsed with hexane (10×150 mL). The filtrate was concentrated under vacuum (30° C./60 mtorr) to obtain 44 g (89% yield) of 1-bromo-5-trimethylsilylpent-2-en-4-yne, a compound of formula (P), as a pale yellow oil:

reactant | N-Bromosuccinimide | 0.48 mol, 85.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 0.49 mol, 128.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-trimethylsilylpent-2-en-4-yn-1-ol | 0.47 mol, 72.5 g | C[Si](C#CC=CCO)(C)C | C8H14OSi
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 1-bromo-5-trimethylsilylpent-2-en-4-yne | 44 g, 89% yield | BrCC=CC#C[Si](C)(C)C | C8H13BrSi
